US04526979
In a similar manner, a solution of 46.4 g of 3-nitrobenzoyl chloride in 100 ml of tetrahydrofuran was added to a hot solution of 51.6 g of 5-aminotetrazole monohydrate in 1200 ml of tetrahydrofuran and 50 ml of water. The mixture was allowed to stand for 16 hours and then concentrated, and the resulting slurry was treated with water. The white solid was collected, washed with water and oven-dried to give 3-nitro-N-(1H-tetrazol-5-yl)benzamide melting at about 276° C. with decomposition.

reactant | 3-nitrobenzoyl chloride | 46.4 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
reactant | 5-aminotetrazole monohydrate | 51.6 g | O.NC1=NN=NN1
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1200 ml | O1CCCC1 | C4H8O
solvent | water | 50 ml | O | H2O
product | 3-nitro-N-(1H-tetrazol-5-yl)benzamide | [N+](=O)([O-])C=1C=C(C(=O)NC2=NN=NN2)C=CC1 | C8H6N6O3
